US06184242B2
To a solution of 4-(4-isopropoxymethylbenzyl)-phenylamine (400 mg, 1.57 mmol) in isopropanol (4.8 mL) at 20° C. under argon atmosphere was added 2-chloro-2-imidazoline sulfate (382 mg, 1.88 mmol). The mixture was heated to 80° C. and stirred for 3 hours. The solvent was evaporated in vacuo, and water and 10% sodium hydroxide was added to pH 11-12. The basic aqueous phase was extracted with dichloromethane (3x 20 mL), and the combined organic layers were washed with water, dried (Na2SO4), and evaporated in vacuo. The crude product was purified by flash chromatography, washed with 0.07M potassium carbonate, and concentrated to give pure 2-[4-(4-isopropoxymethyl-benzyl)-phenyl]-imidazoline (463 mg, 91%) as a clear oil.

reactant | 4-(4-isopropoxymethylbenzyl)-phenylamine | 1.57 mmol, 400 mg | C(C)(C)OCC1=CC=C(CC2=CC=C(C=C2)N)C=C1 | C17H21NO
reactant | 2-chloro-2-imidazoline sulfate | 1.88 mmol, 382 mg | S(=O)(=O)(O)O.ClC=1NCCN1
solvent | isopropanol | 4.8 mL | C(C)(C)O | C3H8O
product | 2-[4-(4-isopropoxymethyl-benzyl)-phenyl]-imidazoline | 463 mg, 91% | C(C)(C)OCC1=CC=C(CC2=CC=C(C=C2)C=2NCCN2)C=C1 | C20H24N2O
